US04139538
(17) 4-[α-(Hydroxy cyclohexyl)-benzyl]-oxazolidin-2-one
5.0 g (0.0262 mole) of 4-benzoyl oxazolidin-2-one dissolved in 100 ml of absolute tetrahydrofuran are added dropwise while cooling with ice to a Grignard solution prepared from 12.8 ml (0.127 mole) of bromocyclohexane and 2.98 g (0.128 gram equivalent) of magnesium in 150 ml of absolute tetrahydrofuran. This solution is stirred for 2 hours at 60° C, subsequently hydrolysed with approximately 500 ml of a saturated ammonium chloride solution and repeatedly extracted with chloroform. The organic phases are combined, dried over Na2SO4 and concentrated in a rotary evaporator. The oil is taken up in ether. The crystals formed are filtered off under suction.

reactant | 4-benzoyl oxazolidin-2-one | 0.0262 mole, 5.0 g | C(C1=CC=CC=C1)(=O)C1NC(OC1)=O | C10H9NO3
reactant | bromocyclohexane | 0.127 mole, 12.8 ml | BrC1CCCCC1 | C6H11Br
reactant | magnesium | 2.98 g | [Mg] | Mg
reactant | ammonium chloride | approximately 500 ml | [Cl-].[NH4+]
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4-[α-(Hydroxy cyclohexyl)-benzyl]-oxazolidin-2-one | OC1(CCCCC1)C(C1=CC=CC=C1)C1NC(OC1)=O | C16H21NO3
